US04695654
1-Benzyloxy-2,2-difluorobutylamine
The compound N-(4-benzyloxy-3,3-difluorobutyl)phthalimide (68.5 g, 198.6 mmoles) and hydrazine hydrate (10 g, 200 mmoles) are stirred and heated overnight in ethanol (200 mL) at 90°-100° C. A mixture of concentrated HCl (94 mL) and ethanol (1130 mL) is added, and heating (90°-100° C.) is continued for 1.5 hours. After cooling (ice bath), phthalhydrazide is removed by filtration, and the filtrate is evaporated. The residue is taken up in water and extracted with ether (2×500 mL). After filtration through a membrane filter (Millipore), evaporation of the filtrate yields white crystals. These dissolved in ethanol, the solution is filtered (Millipore organic) and the filtrate is evaporated to yield a residue which crystallizes on addition of ether: 34 g (68%). Evaporation of the ether extracts yields a partially crystalline material (20 g) consisting of starting material. Repetition of the hydrazine cleavage upon this mixture yields a second crop of 4-benzyloxy-3,3-difluorobutylamine (9.1 g). Total: 43.2 g (86.5%).

reactant | N-(4-benzyloxy-3,3-difluorobutyl)phthalimide | 198.6 mmoles, 68.5 g | C(C1=CC=CC=C1)OCC(CCN1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C19H17F2NO3
reactant | hydrazine hydrate | 200 mmoles, 10 g | O.NN
reactant | HCl | 94 mL | Cl | ClH
reactant | phthalhydrazide | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 1130 mL | C(C)O | C2H6O
product | 1-Benzyloxy-2,2-difluorobutylamine | 20 g | C(C1=CC=CC=C1)OC(C(CC)(F)F)N | C11H15F2NO
